US08242145B2
Step 5: [5-(4-Bromo-2-hydroxymethyl-phenoxy)-2-chloro-phenyl]-acetic acid ethyl ester
To [5-(4-bromo-2-formyl-phenoxy)-2-chloro-phenyl]-acetic acid ethyl ester (0.3 g, 0.76 mmol) in MeOH (20 mL) was added sodium borohydride (0.03 g, 0.78 mmol), and the mixture was stirred at room temperature for 10 minutes. The mixture was worked-up to give the desired product (0.3 g).

reactant | [5-(4-bromo-2-formyl-phenoxy)-2-chloro-phenyl]-acetic acid ethyl ester | 0.76 mmol, 0.3 g | C(C)OC(CC1=C(C=CC(=C1)OC1=C(C=C(C=C1)Br)C=O)Cl)=O | C17H14BrClO4
reactant | sodium borohydride | 0.78 mmol, 0.03 g | [BH4-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | [5-(4-Bromo-2-hydroxymethyl-phenoxy)-2-chloro-phenyl]-acetic acid ethyl ester | 0.3 g | C(C)OC(CC1=C(C=CC(=C1)OC1=C(C=C(C=C1)Br)CO)Cl)=O | C17H16BrClO4
